US06172085B2
1-[(5-Amino-2,3-dihydro-2,4,6,7-tetramethylbenzofuran-2-yl)methyl]-N-(diphenylmethyl)-4-piperidinamine trihydrochloride
1-[(5-Amino-2,3-dihydro-2,4,6,7-tetramethylbenzofuran-2-yl)methyl]-N-(diphenylmethyl)-4-piperidineamine (2.2 g) was treated with 4N-HCl solution in ethanol and the resulting trihydrochloride was recrystallized from ethanol/diethyl ether to provide 2.5 g of the title compound. Yield 87%.

reactant | 1-[(5-Amino-2,3-dihydro-2,4,6,7-tetramethylbenzofuran-2-yl)methyl]-N-(diphenylmethyl)-4-piperidineamine | 2.2 g | NC=1C(=C(C2=C(CC(O2)(C)CN2CCC(CC2)NC(C2=CC=CC=C2)C2=CC=CC=C2)C1C)C)C | C31H39N3O
reactant | HCl | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 1-[(5-Amino-2,3-dihydro-2,4,6,7-tetramethylbenzofuran-2-yl)methyl]-N-(diphenylmethyl)-4-piperidinamine trihydrochloride | 2.5 g, Yield 87% | Cl.Cl.Cl.NC=1C(=C(C2=C(CC(O2)(C)CN2CCC(CC2)NC(C2=CC=CC=C2)C2=CC=CC=C2)C1C)C)C | InChI=1S/C31H39N3O.3ClH/c1-21-22(2)30-27(23(3)28(21)32)19-31(4,35-30)20-34-17-15-26(16-18-34)33-29(24-11-7-5-8-12-24)25-13-9-6-10-14-25;;;/h5-14,26,29,33H,15-20,32H2,1-4H3;3*1H
